US09079880B2
Cool a solution of 4-aminobenzonitrile (0.48 g, 4.02 mmol) in pyridine (30 mL), to 0° C., and add 3-carboxymethoxy-benzoic acid methyl ester (0.79 g, 3.76 mmol) followed by phosphorous oxychloride (0.38 mL, 4.02 mmol). Stir the mixture at 0° C. for 2 h then dilute with water causing a solid to precipitate from solution. Collect the solid by filtration, wash with water, and dry on the filter pad to provide 1.01 g (81.0%) of 3-[(4-cyano-phenylcarbamoyl)-methoxy]-benzoic acid methyl ester.

reactant | 4-aminobenzonitrile | 4.02 mmol, 0.48 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 3-carboxymethoxy-benzoic acid methyl ester | 3.76 mmol, 0.79 g | COC(C1=CC(=CC=C1)OCC(=O)O)=O | C10H10O5
reactant | phosphorous oxychloride | 4.02 mmol, 0.38 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-[(4-cyano-phenylcarbamoyl)-methoxy]-benzoic acid methyl ester | 1.01 g, 81.0% | COC(C1=CC(=CC=C1)OCC(NC1=CC=C(C=C1)C#N)=O)=O | C17H14N2O4
